US08058300B2
Step 3: {5-[4′-(1-Methanesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid (R)-1-(3-trifluoromethyl-phenyl)-ethyl ester:
Prepared according to the procedure described in Example 1, Step 6 using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(3-trifluoromethyl-phenyl)-ethyl ester and N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(3-trifluoromethyl-phenyl)-ethyl ester | FC(C=1C=C(C=CC1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O)(F)F | C20H16BrF3N2O3
reactant | N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C17H24BNO5S
product | {5-[4′-(1-Methanesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid (R)-1-(3-trifluoromethyl-phenyl)-ethyl ester | FC(C=1C=C(C=CC1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C)=O)(F)F | C31H28F3N3O6S
